US04751328
16.6 g (0.1 mol) of this o-nitrobenzaldoxime, 0.83 g of a 5% Pd-C catalyst, 12 g (0.2 mol) of glacial acetic acid and 100 ml of tetrahydrofurane were charged into a hermetically sealed glass container and stirred vigorously while charging hydrogen. Reaction was continued at temperatures of 25°-35° C. for 7 hours. After the reaction, the resulting mixture was filtered to remove the catalyst, was added with 8 g (0.2 mol) of sodium hydroxide and was subject to distillation. Thus, 9.7 g of o-aminobenzylamine was obtained. Yield 79.4%; Purity 99.4%; B.P. 91°-93° C./1 mmHg. M.P. 58°-61° C.

reactant | o-nitrobenzaldoxime | 0.1 mol, 16.6 g | [N+](=O)([O-])C1=C(C=NO)C=CC=C1 | C7H6N2O3
reactant | acetic acid | 0.2 mol, 12 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 0.2 mol, 8 g | [OH-].[Na+]
catalyst | Pd-C | [Pd] | Pd
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | o-aminobenzylamine | 9.7 g, Yield 79.4% | NC1=C(CN)C=CC=C1 | C7H10N2
